US04937268
2-(3-Phenoxypropoxy)ethanol
Sodium (2.80 g) was dissolved in 1,2-ethanediol (22.00 g) at ca 100° under nitrogen and 3-phenoxy-1-propanol methanesulphonate (25.5 g) in 1,2-dimethoxyethane (50 ml) was added dropwise at 100° under nitrogen. The mixture was stirred at 150° for 2 h and then carefully diluted with water (150 ml) and extracted with diethyl ether (2×150 ml). The combined organic extracts were washed with water (2×150 ml), dried and evaporated in vacuo to give the title compound (21.45 g) as an oil. T.l.c. System B (1:1) Rf 0.13.

reactant | Sodium | 2.80 g | [Na] | Na
reactant | 3-phenoxy-1-propanol methanesulphonate | 25.5 g | CS(=O)(=O)OCCCOC1=CC=CC=C1 | C10H14O4S
reactant | 1,2-ethanediol | 22.00 g | C(CO)O | C2H6O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | water | 150 ml | O | H2O
product | 2-(3-Phenoxypropoxy)ethanol | 21.45 g | O(C1=CC=CC=C1)CCCOCCO | C11H16O3
